US07390830B1
A chloroform (0.4 mL) solution of benzoyl chloride (0.060 mmol) was added to a chloroform (1.0 mL) solution of 1-benzyl-4-(glycylamino)piperidine (0.050 mmol) and triethylamine (0.070 mmol). The resulting reaction mixture was shaken at room temperature for 12 hours, and an (aminomethyl)polystyrene resin (1.04 mmol/g, 50 mg, 50 mmol) was added to the mixture. The obtained mixture was shaken at room temperature for 12 hours. The resulting reaction mixture was filtered, and the resin was washed with dichloromethane (0.5 mL). The filtrate and washings were combined, and dichloromethane (4 mL) was added. The solution was washed with a 2 M aqueous solution of NaOH (0.5 mL) to provide 4-(N-benzoylglycyl)amino-1-benzylpiperidine (Compd. No. 386) (11.3 mg, 64%). The purity was determined by RPLC/MS (94%). ESI/MS m/e 352.0 (M++H, C21H25N3O2).

reactant | benzoyl chloride | 0.060 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-benzyl-4-(glycylamino)piperidine | 0.050 mmol | C(C1=CC=CC=C1)N1CCC(CC1)NC(CN)=O | C14H21N3O
reactant | triethylamine | 0.070 mmol | C(C)N(CC)CC | C6H15N
reactant | (aminomethyl)polystyrene | 50 mmol, 50 mg | N | H3N
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.4 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(N-benzoylglycyl)amino-1-benzylpiperidine | C(C1=CC=CC=C1)(=O)NCC(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C21H25N3O2
